datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C(CC)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(O)C([H])C(C)C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)C(C)C([H])C(O)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(C)=C([H])C([H])C(CC)[O:10]1>>[O-:10]C(CC)C([H])/C([H])=C(C)\[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C)[CH]([H])C([H])[O]2.[H][NH:10][H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH]C(C)C(C8=CC=CC=C8)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(C)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O][C:20]([O][H])=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][Si](C)(C)(C))[O][H] 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C([H])[S][C:20]([S]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C([H])[S]1)[C:20]1([O:21][H])[S]CC 10=20;20,21=21"
"[H]C1C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)C>>[H]C1C(O[C:20](=[O:10])N1CC)C.[O-:21]CCCCCC 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[O]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(C8=CC=CC=C8)[S][C:20]([O]C)=[O+:21][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]([NH:21]C)([O]CC)[NH]CC.[Cl-]>>[Cl-].C[O:10][H].C[NH+:21]=[C:20]([O]CC)[NH]CC 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)[H].[O-:21][H]>>CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])C1=CC=CC=C1)[H] 21=20;20,10=10"
"[H][O:10]C([H])C([H])[O][C:20]([O]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])[O]1)[C:20]1([NH:21]CC)[O]C 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S]C(C)C(C)[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[S]C(C)C(C)[O]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])O[H])C1=CC=CC=C1.[O-:21]C>>C1=CC=CC=C1N([C:20]([O-:10])(O[H])[O:21]C)C1=CC=CC=C1 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH]C([H])C(CC)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[NH]C([H])C(CC)[O]1 10=20;20,21=21"
"[H][NH+:10](C([H])C([H])C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C([H])[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C9=CC=CC=C9[NH:10][H].CC[NH+:21]=[C:20]([O]CC)[NH][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]CC)([O]CC)[NH][H] 10=20;20,21=21"
"[O:10]([Na])C(CC)C([H])C([C:20](OCC)=[O:21])[H]>>[O-:21][C:20]1(OCC)[O+:10]([Na])C(CC)C([H])C1[H] 10=20;20,21=21"
"[O:10]([K])C([H])C([H])C([C:20](OC)=[O:21])O>>[O-:21][C:20]1(OC)[O+:10]([K])C([H])C([H])C1O 10=20;20,21=21"
"[H][S:10]C(CC)C(C)[O][C:20]([O]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)[O]1)[C:20]1([O:21][H])[O]CC 10=20;20,21=21"
"[H][NH+:10](C(C)C(C)[O]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)[O][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][NH:10]C(CC)C(C)C(C)[NH][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"C[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[O]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[O]C(C7=CC=CC=C7)C(C)[O]1 10=20;20,21=21"
"CC[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]CC)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]CC)[S]C7=CC=CC=C7 21=20;20,10=10"
"[OH:10]C([H])C(C)/C(C)=C([H])\[C:20]([H])=[OH+:21]>>[OH:21][C:20]1([H])C([H])=C(C)C(C)C([H])[OH+:10]1 10=20;20,21=21"
"[H][O:10]C(C)C([H])C([H])[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C([H])[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)C([H])C([H])C([H])C([H])[O+:10]1([K])>>[O:10]([K])C([H])C([H])C([H])C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)C1=CC=CC=C1)[O-:10])CC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)C1=CC=CC=C1)CC 10=20;20,21=21"
"CC1C(O[C:20](N1CC)([O-:10])[O:21][H])C1=CC=CC=C1>>CC1C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1.[O-:21][H] 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.C[NH:10][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H]C1C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC.[O-:21]CC>>[H]C1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)CCCCCC 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)C>>C1=CC=CC=C1C1C(O[C:20](=[O:10])N1CCCCCC)C.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
